US04396781
1-Methoxy-1,4,8-trimethyl-cyclododeca-4,8-diene
340 g (1.67 M) of 2,5,9-trimethyl-cyclododeca-1,5,9-triene and 110 g of acidic diatomaceous earth in 5000 ml of methanol (containing less than 0.05% of water) were refluxed during 40 h. After cooling at room temperature and filtration, the mixture was concentrated at reduced pressure to yield, after a distillation, 366 g of a product having b.p. 79°-110°/0.01 Torr. After fractional distillation, 212 g of starting 2,5,9-trimethylcyclododeca-1,5,9-triene (b.p.43°-52°/0.1 Torr) and 140 g of the desired product, b.p. 78°-82°/0.01 Torr (yield 95% based on the converted starting material).

reactant | 2,5,9-trimethyl-cyclododeca-1,5,9-triene | 1.67 M, 340 g | CC1=CCCC=C(CCC=C(CC1)C)C | C15H24
reactant | methanol | 5000 ml | CO | CH4O
product | 1-Methoxy-1,4,8-trimethyl-cyclododeca-4,8-diene | yield 95% | COC1(CCC(=CCCC(=CCCC1)C)C)C | C16H28O
